US04922015
4-(4-Methoxybenzoyl)-2-methylphenoxyacetic acid
35.8 g of methyl 4-(4-methoxybenzoyl)-2-methylphenoxyacetate are stirred with a mixture of 240 ml of dioxane and 240 ml of 0.5N NaOH at room temperature. After the reaction is complete, the organic solvent is removed in vacuo, and the aqueous phase is adjusted to pH 3 with 2N HCl and extracted with ethyl acetate. The organic phase is washed with water, dried over magnesium sulfate and concentrated. Pale yellow crystals remain.

reactant | methyl 4-(4-methoxybenzoyl)-2-methylphenoxyacetate | 35.8 g | COC1=CC=C(C(=O)C2=CC(=C(OCC(=O)OC)C=C2)C)C=C1 | C18H18O5
reactant | NaOH | 0.5N, 240 ml | [OH-].[Na+]
solvent | dioxane | 240 ml | O1CCOCC1 | C4H8O2
product | 4-(4-Methoxybenzoyl)-2-methylphenoxyacetic acid | COC1=CC=C(C(=O)C2=CC(=C(OCC(=O)O)C=C2)C)C=C1 | C17H16O5
